US07645771B2
5-fluoro-2-oxo-2,3-dihydro-1,3-benzoxazole-4-carboxylic acid
To a THF solution of 2-amino-6-fluoro-3-hydroxybenzoic acid (520 mg, 3.04 mmole) and n,n-diisopropylethylamine (942 mg, 7.29 mmole) was added bis(trichloromethyl) carbonate (1.08 g, 3.64 mmole) and stirred. Removal of solvent under vacuum afforded a residue, which was run on reversephase flash chromatography 10 to 90% acetonitrile water (0.01% TFA). The resulting fractions were evaporated.

reactant | THF | C1CCOC1 | C4H8O
reactant | 2-amino-6-fluoro-3-hydroxybenzoic acid | 3.04 mmole, 520 mg | NC1=C(C(=O)O)C(=CC=C1O)F | C7H6FNO3
reactant | n,n-diisopropylethylamine | 7.29 mmole, 942 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | bis(trichloromethyl) carbonate | 3.64 mmole, 1.08 g | C(OC(Cl)(Cl)Cl)(OC(Cl)(Cl)Cl)=O | C3Cl6O3
solvent | acetonitrile water | O.C(C)#N
product | 5-fluoro-2-oxo-2,3-dihydro-1,3-benzoxazole-4-carboxylic acid | FC1=CC=C2C(NC(O2)=O)=C1C(=O)O | C8H4FNO4
